US05716624
Preparation of methyl 5-[3-hydroxy-3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-1-propynyl]-2-thiophenecarboxylate
Following the basic procedure of Example 32, by reacting 1.21 g (5 mmol) ) of α-ethynyl- 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthalenemethanol with 1.1 g (5 mmol) of methyl 5-bromo-2-thiophenecarboxylate, 371 mg (19%) of the expected methyl ester, with a melting point of 84°-85° C., were obtained.

reactant | α-ethynyl- 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthalenemethanol | C(#C)C(O)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C17H22O
reactant | methyl 5-bromo-2-thiophenecarboxylate | 5 mmol, 1.1 g | BrC1=CC=C(S1)C(=O)OC | C6H5BrO2S
product | methyl 5-[3-hydroxy-3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-1-propynyl]-2-thiophenecarboxylate | OC(C#CC1=CC=C(S1)C(=O)OC)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C23H26O3S
